US05134147
3-Chlorobenzocyclobutene-1-carboxylic acid
5.0 g of 3-chloro-1-cyanobenzocyclobutane (prepared according to the process described in Patent EP 119,107) are added to a solution of 6.0 g of potassium hydroxide in 58 ml of ethanol The mixture is stirred at room temperature overnight. 7.5 ml of water are then added and the mixture is heated to reflux for 6 hours. The ethanol is evaporated off to dryness. The residue is taken up with water and the aqueous phase is washed with ethyl ether, then acidified (pH 1) with 1N hydrochloric acid and extracted with dichloromethane. The organic phase is dried, filtered and evaporated to dryness.

reactant | 3-chloro-1-cyanobenzocyclobutane | 5.0 g | ClC1=CC=CC=2C(CC21)C#N | C9H6ClN
reactant | potassium hydroxide | 6.0 g | [OH-].[K+]
reactant | water | 7.5 ml | O | H2O
solvent | ethanol | 58 ml | C(C)O | C2H6O
product | 3-Chlorobenzocyclobutene-1-carboxylic acid | ClC1=CC=CC=2C(=CC21)C(=O)O | C9H5ClO2
